US04868174
To a solution of benzhydryl 7-[2-(2-tetrahydropyranyl)oxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate-1-oxide (syn isomer) in acetone (100 ml) was added sodium iodide (2.5 g) under ice-cooling. The mixture was stirred for 4.5 hours at the same temperature and then poured into a mixure of ethyl acetate (150 ml) and water (150 ml). The organic layer was separated, washed with brine and dried over magnesium sulfate. The solvent was distilled off. To the residue was added tetrahydrofuran (25 ml) and then 1-methylpyrrolidine (0.52 ml) was added thereto under cooling. The mixture was stirred for 1 hour at the same temperature and then the mixture was poured into ice-water. The resulting precipitates were collected by filtration, dried over phosphorus pentoxide and then subjected to column chromatography on silica gel using methylene chloride and methanol (5:2) as an eluent. The fractions containing the object compound were collected and evaporated to give benzhydryl 7-[2-(2-tetrahydropyranyl)oxyimino-2-(2 -tritylaminothiazol-4-yl)acetamido]-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate-1-oxide iodide (syn isomer) (1.0 g).

reactant | benzhydryl 7-[2-(2-tetrahydropyranyl)oxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate-1-oxide | O1C(CCCC1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C50H44ClN5O7S2
reactant | sodium iodide | 2.5 g | [I-].[Na+]
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 150 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | benzhydryl 7-[2-(2-tetrahydropyranyl)oxyimino-2-(2 -tritylaminothiazol-4-yl)acetamido]-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate-1-oxide iodide | 1.0 g | [I-].O1C(CCCC1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)C[N+]2(CCCC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C55H54N6O7S2.HI/c1-61(32-18-19-33-61)35-40-37-70(65)52-47(51(63)60(52)48(40)53(64)67-49(38-21-7-2-8-22-38)39-23-9-3-10-24-39)57-50(62)46(59-68-45-31-17-20-34-66-45)44-36-69-54(56-44)58-55(41-25-11-4-12-26-41,42-27-13-5-14-28-42)43-29-15-6-16-30-43;/h2-16,21-30,36,45,47,49,52H,17-20,31-35,37H2,1H3,(H-,56,57,58,62);1H/t45?,47?,52-,70?;/m1./s1
